US07893056B2
[(2R)-3-{2-[2-Chloro-6-(cyclobutylamino)-5-fluoro-4-pyrimidinyl]hydrazino}-2-(cyclopentylmethyl)-3-oxopropyl][(phenylmethyl)oxy]formamide (0.055 g, 0.106 mmol) was dissolved in MeOH (5 mL) at room temperature. Pd(OH)2 (0.006 g) was added and the contents were stirred under a hydrogen balloon for 4 hours. The contents were filtered to remove the catalyst, and the filtrate was concentrated in vacuo. The above procedure was repeated 3 more times. Twice Pd(OH)2 (0.010 g) was used and the third time Pd(OH)2 (0.015 g) was used and The reaction was stirred for 5.5 hours. The contents were filtered to remove the catalyst, and the filtrate was concentrated in vacuo. The resulting crude product was purified by RP-HPLC to provide [(2R)-3-{2-[2-chloro-6-(cyclobutylamino)-5-fluoro-4-pyrimidinyl]hydrazino}-2-(cyclopentylmethyl)-3-oxopropyl]hydroxyformamide as a tan solid (0.005 g, 11%). LCMS: (M+H)+=428.9.

reactant | [(2R)-3-{2-[2-Chloro-6-(cyclobutylamino)-5-fluoro-4-pyrimidinyl]hydrazino}-2-(cyclopentylmethyl)-3-oxopropyl][(phenylmethyl)oxy]formamide | 0.106 mmol, 0.055 g | ClC1=NC(=C(C(=N1)NNC([C@@H](CN(C=O)OCC1=CC=CC=C1)CC1CCCC1)=O)F)NC1CCC1 | C25H32ClFN6O3
solvent | MeOH | 5 mL | CO | CH4O
catalyst | Pd(OH)2 | 0.006 g | [OH-].[OH-].[Pd+2]
product | [(2R)-3-{2-[2-chloro-6-(cyclobutylamino)-5-fluoro-4-pyrimidinyl]hydrazino}-2-(cyclopentylmethyl)-3-oxopropyl]hydroxyformamide | 0.005 g, 11% | ClC1=NC(=C(C(=N1)NNC([C@@H](CN(C=O)O)CC1CCCC1)=O)F)NC1CCC1 | C18H26ClFN6O3
